US08865911B2
3-Bromo-5-((2,2,2-trifluoroethoxy)methyl)pyridine
2,2,2-Trifluoroethanol (0.434 g, 4.34 mmol) was added to a suspension of NaH (0.198 g, 4.96 mmol) in THF (10 mL). When gas evolution had ceased, a solution of (5-bromopyridin-3-yl)methyl methanesulfonate (see WO2007/076247; 1.10 g, 4.13 mmol) in DMF was added. The resulting mixture was stirred for 2 h at r.t. and then the volatile solvent was evaporated. The remaining solution was diluted with water and extracted with EtOAc (3×30 mL). The combined extracts were dried over MgSO4 and concentrated. The residue was purified by flash chromatography on silica using gradient elution with EtOAc in heptane to give 227 mg of the title compound (20% yield). 1H NMR (500 MHz, CDCl3) δ ppm 3.92 (q, 2 H), 4.70 (s, 2 H), 7.87 (m, 1 H), 8.50 (m, 1 H), 8.66 (d, 1 H); MS (EI) m/z 269 M+.

reactant | 2,2,2-Trifluoroethanol | 4.34 mmol, 0.434 g | FC(CO)(F)F | C2H3F3O
reactant | NaH | 4.96 mmol, 0.198 g | [H-].[Na+]
reactant | (5-bromopyridin-3-yl)methyl methanesulfonate | 4.13 mmol, 1.10 g | CS(=O)(=O)OCC=1C=NC=C(C1)Br | C7H8BrNO3S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Bromo-5-((2,2,2-trifluoroethoxy)methyl)pyridine | 227 mg, 20% yield | BrC=1C=NC=C(C1)COCC(F)(F)F | C8H7BrF3NO
